US07687491B2
(1g) 1-[(4-{5-[4-Phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-furyl)methyl]azetidine-3-carboxylic acid
To a solution of ethyl 1-[(4-{5-[4-phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-furyl)methyl]azetidine-3-carboxylate (0.20 g, 0.40 mmol) that was obtained in Example 1 (1f) in a mixed solvent of tetrahydrofuran (0.50 ml), methanol (0.50 ml) and water (0.50 ml) was added lithium hydroxide monohydrate (37 mg, 0.88 mmol) with stirring, and the resulting mixture was stirred at room temperature for 1 hour. After stirring, acetic acid (48 μl, 0.88 mmol) was added to the reaction mixture to quench the reaction. Subsequently, to the resulting mixture was added a solution of oxalic acid (18 mg, 0.20 mmol) in methanol (0.5 ml) with stirring, and the resulting mixture was stirred for 30 minutes. The white solid precipitated was collected by filtration using a Kiriyama funnel, washed with a mixed solvent of water and methanol (3:7), and dried in vacuo to afford the title compound (82 mg) in a yield of 39% as a white crystalline solid.

reactant | ethyl 1-[(4-{5-[4-phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-furyl)methyl]azetidine-3-carboxylate | 0.40 mmol, 0.20 g | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C1=NC(=NO1)C=1C=C(OC1)CN1CC(C1)C(=O)OCC | C24H20F3N3O4S
reactant | lithium hydroxide monohydrate | 0.88 mmol, 37 mg | O.[OH-].[Li+]
reactant | acetic acid | 0.88 mmol, 48 μl | C(C)(=O)O | C2H4O2
reactant | oxalic acid | 0.20 mmol, 18 mg | C(C(=O)O)(=O)O | C2H2O4
solvent | methanol | 0.5 ml | CO | CH4O
solvent | methanol | 0.50 ml | CO | CH4O
solvent | water | 0.50 ml | O | H2O
solvent | tetrahydrofuran | 0.50 ml | O1CCCC1 | C4H8O
product | 1-[(4-{5-[4-Phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-furyl)methyl]azetidine-3-carboxylic acid | 82 mg, yield of 39% | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C1=NC(=NO1)C=1C=C(OC1)CN1CC(C1)C(=O)O | C22H16F3N3O4S
